Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Bactrim / cyclobenzaprine / NSAIDS (Non-Steroidal 
Anti-Inflammatory Drug) / erythromycin base / Lipitor / Macrobid 
/ Penicillins / metaxalone
 
Attending: ___.
 
Chief Complaint:
Morbid obesity
 
Major Surgical or Invasive Procedure:
___: laparoscopic sleeve gastrectomy

 
History of Present Illness:
___ has class III morbid obesity with weight of 244 pounds as 
of ___ with her initial screen weight of 249 pounds on 
___, height of 62 inches and BMI of 44.6.  Her previous 
weight loss efforts have included Slim-Fast, working with a 
___ at ___ visits) and self-initiated diets.  She 
has only been able to lose up to 15 pounds but her weight loss 
attempts that failed to produce significant and/or lasting 
results.  She has not taken prescription weight loss medications 
or used over-the-counter dietary supplements/herbal products.  
Her weight in ___ was 225 pounds, she weighed 226 pounds in 
___, 223 pounds ___ years ago.  She stated that she has been 
struggling with weight since her ___ after children were born.  
Factors contributing to her excess weight include large 
portions, grazing, late night eating, convenience eating, too 
many carbohydrates and saturated fats including junk food and 
sweets as well as lack of exercise.  She does walk her dog for 
30 minutes but finds that her exercise is limited secondary to a
hernia.  She denied history of eating disorders - no anorexia, 
bulimia, diuretic or laxative abuse and she denied binge eating. 
She does not have a clinical diagnosis of depression except for 
reactive/situational around her weight, is not currently being 
seen by a therapist nor has she been hospitalized for mental 
health issues and she is not on any psychotropic medications.
 
Past Medical History:
1)  hypertension
2)  gastroesophageal reflux and history of gastritis
3)  atrial fibrillation
4)  hyperlipidemia with elevated triglycerides
5)  asthma with no recent flares or prednisone taper
6)  osteoarthritis of lower extremity joints
7)  low back pain
8)  detrusor overactivity
9)  history of vesicovaginal fistula
10) amblyopia
11) history of tobacco abuse
12) bilateral inguinal hernias on CT scan
13) hyperuricemia
14) vitamin D deficiency on supplementation
15) chronic pain syndrome
16) history of colonic polyps
17) plantar fasciitis of the left foot
18) right ear hearing loss
19) left foot calcaneal spur
20) vitamin B12 deficiency

Her surgical history is noted for:

1)  total abdominal hysterectomy and bilateral salpingo-
    oophorectomy
2)  s/p C-section
3)  InterStim implant for detrusor overactivity ___
4)  vein stripping
5)  tonsillectomy
6)  hernia repair
 
Social History:
___
Family History:
Family history is noted for both parents living father age ___ 
with history of emphysema; mother age ___ with heart disease, 
hyperlipidemia, diabetes, history of stroke, arthritis and 
asthma; has 2 brothers one age ___ alive and well the other 
deceased age ___ of suicide; 4 sisters one deceased from cardiac 
event others alive and well.
 
Physical Exam:
Resident exam:
VS: Reviewed in OMR  
 
GEN: A&Ox3, NAD, resting comfortably  
HEENT: NCAT, EOMI, sclera anicteric  
CV: RRR  
PULM: no respiratory distress  
ABD: soft, moderate epigastric/incisional tenderness, ND, no
rebound or guarding  
EXT: warm, well-perfused, no edema  
PSYCH: normal insight, memory, and mood  
WOUND(S): Incision c/d/i  

 
Brief Hospital Course:
Ms. ___ is ___ with morbid obesity who underwent a 
laparoscopic sleeve gastrectomy on ___. There were 
no adverse events in the operating room; please see the 
operative note for details.   
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with a TAP block 
performed pre-operatively . Pain was subsquently managed with 
intravenous acetaminophen and morphine; morphine was 
discontinued as it was causing nausea.  Her pain medications 
were transitioned liquid form. 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.  
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization.  
GI/GU/FEN: The patient was initially kept NPO. Afterwards, the 
patient was started on a stage 1 bariatric diet, which the 
patient tolerated well. Subsequently, the patient was advanced 
to stage 2, which the patient was tolerating at the time of 
discharge.  
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.  
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.  
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a 
bariatric stage 3 diet, ambulating, voiding without assistance, 
and pain was well controlled. The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.  
 

Plan:  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. trospium 20 mg oral BID 
2. Nicotine Patch 14 mg/day TD DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. OxyCODONE (Immediate Release) 10 mg PO Q8H 
5. Omeprazole 20 mg PO DAILY 
6. Cetirizine 10 mg PO DAILY 
7. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen (Liquid) 1000 mg PO ONCE Duration: 1 Dose 
RX *acetaminophen 500 mg/15 mL 30 ml by mouth every eight (8) 
hours Disp #*1000 Milliliter Refills:*2 
2.  Famotidine 20 mg PO BID 
crush and take in liquid or applesauce 
RX *famotidine [Acid Controller] 20 mg 1 tablet(s) by mouth 
twice a day Disp #*60 Tablet Refills:*0 
3.  Metoprolol Tartrate 12.5 mg PO BID 
crush and take in water or apple sauce 
RX *metoprolol tartrate 25 mg 0.5 (One half) tablet(s) by mouth 
twice a day Disp #*30 Tablet Refills:*0 
4.  OxycoDONE Liquid 10 mg PO Q8H:PRN Pain - Moderate 
RX *oxycodone 5 mg/5 mL 10 ml by mouth every eight (8) hours 
Refills:*0 
5.  Nicotine Patch 14 mg/day TD DAILY  
6. HELD- Cetirizine 10 mg PO DAILY  This medication was held. Do 
not restart Cetirizine until you see Dr. ___ in clinic
7. HELD- Vitamin D ___ UNIT PO DAILY  This medication was held. 
Do not restart Vitamin D until you see Dr. ___ in clinic

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Morbid obesity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You have undergone a laparoscopic sleeve gastrectomy, recovered 
in the hospital and are now preparing for discharge to home with 
the following instructions:

Please call your surgeon or return to the Emergency Department 
if you develop a fever greater than ___ F, shaking chills, chest 
pain, difficulty breathing, pain with breathing, cough, a rapid 
heartbeat, dizziness, severe abdominal pain, pain unrelieved by 
your pain medication, a change in the nature or severity of your 
pain, severe nausea, vomiting, abdominal bloating, severe 
diarrhea, inability to eat or drink, foul smelling or colorful 
drainage from your incisions, redness, swelling from your 
incisions, or any other symptoms which are concerning to you. 
Diet: Stay on Stage II diet until your follow up appointment; 
this stage was previously called stage III and consists of 
protein shakes, sugar free smooth pudding/ yogurt, etc; please 
refer to your work book for detailed instructions. Do not self- 
advance your diet and avoid drinking with a straw or chewing 
gum. To avoid dehydration, remember to sip small amounts of 
fluid frequently throughout the day to reach a goal of 
approximately ___ mL per day. Please note the following signs 
of dehydration: dry mouth, rapid heartbeat, feeling dizzy or 
faint, dark colored urine, infrequent urination. 
Medication Instructions: 
Please refer to the medication list provided with your discharge 
paperwork for detailed instruction regarding your home and newly 
prescribed medications. 
Some of the new medications you will be taking include: 
1. Pain medication: You will receive a prescription for liquid 
acetaminophen (Tylenol), do not exceed 3000 mg per 24 hour 
period. 
2. Antacids: You will be taking famotidine tablets, 20 mg twice 
daily, for one month. This medicine reduces stomach acid 
production. Please crush. 
3. You must not use NSAIDS (non-steroidal anti-inflammatory 
drugs) unless approved by your Weight Loss Surgery team. 
Examples include, but are not limited to Aleve, Arthrotec, 
aspirin, Bufferin, diclofenac, Ecotrin, etodolac, ibuprofen, 
Indocin, indomethacin, Feldene, ketorolac, meclofenamate, 
meloxicam, Midol, Motrin, nambumetone, Naprosyn, Naproxen, 
Nuprin, oxaprozin, Piroxicam, Relafen, Toradol and Voltaren. 
These agents may cause bleeding and ulcers in your digestive 
system. If you are unclear whether a medication is considered an 
NSAID, please ask call your nurse or ask your pharmacist. 
4. Vitamins/ minerals: You may resume a chewable multivitamin, 
however, please discuss when to resume additional vitamin and 
mineral supplements with your bariatric dietitian. 
Activity: 
You should continue walking frequently throughout the day right 
after surgery; you may climb stairs. 
You may resume moderate exercise at your discretion, but avoid 
performing abdominal exercises or lifting items greater than 10 
to 15 pounds for six weeks. 
Wound Care: 
You may remove any remaining gauze from over your incisions. You 
will have thin paper strips (Steri-Strips) over your incision; 
please, remove any remaining Steri-Strips seven to 10 days after 
surgery. 
You may shower 48 hours following your surgery; avoid scrubbing 
your incisions and gently pat them dry. Avoid tub baths or 
swimming until cleared by your surgeon. 
If there is clear drainage from your incisions, cover with 
clean, dry gauze. 
Please call the doctor if you have increased pain, swelling, 
redness, cloudy, bloody or foul smelling drainage from the 
incision sites. 
Avoid direct sun exposure to the incision area for up to 24 
months. 
Do not use any ointments on the incision unless you were told 
otherwise. 

 
Followup Instructions:
___